US06156857
Ethene-norbornene Copolymerization
Copolymer composition: 50 mol % of norbornene, 50 mol % of ethene from the 13C-NMR in o-dichlorobenzene.

reactant | norbornene | C12C=CC(CC1)C2 | C7H10
reactant | ethene | C=C | C2H4
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethene norbornene | C=C.C12C=CC(CC1)C2 | InChI=1S/C7H10.C2H4/c1-2-7-4-3-6(1)5-7;1-2/h1-2,6-7H,3-5H2;1-2H2
